US09062048B2
A 250 mL round bottom flask was charge with tert-butyl (1-(1,4-dioxaspiro[4.5]decan-8-yl)allyl)carbamate (5.8 g, 18.6 mmol) and methanol (207 mL). The mixture was cooled to −78° C. and ozone was bubble through the solution at a rate of 3 L/min for 1 hour. The mixture turned pale blue in color after 30 minutes. After 1 hour air was bubble through the solution for 30 minutes until the blue color disappeared. Sodium borohydride (2.82 g, 74.5 mmol) was added to the mixture in 4 portions. The mixture was gradually warmed to room temperature. After 6 h at room temperature the mixture quenched with saturated aqueous ammonium chloride. Dilute with water and extract with ethyl acetate. Dry organic layer with MgSO4, filter, and concentrate in vacuo to give tert-butyl (3-hydroxy-1-(1,4-dioxaspiro[4.5]decan-8-yl)propyl)carbamate (5.1 g, 16.2 mmol) as a clear oil.

reactant | tert-butyl (1-(1,4-dioxaspiro[4.5]decan-8-yl)allyl)carbamate | 18.6 mmol, 5.8 g | O1CCOC12CCC(CC2)C(C=C)NC(OC(C)(C)C)=O | C16H27NO4
reactant | Sodium borohydride | 74.5 mmol, 2.82 g | [BH4-].[Na+]
reactant | methanol | 207 mL | CO | CH4O
product | tert-butyl (3-hydroxy-1-(1,4-dioxaspiro[4.5]decan-8-yl)propyl)carbamate | 16.2 mmol, 5.1 g | OCCC(C1CCC2(OCCO2)CC1)NC(OC(C)(C)C)=O | C16H29NO5
